US08729263B2
Iodoethane (111 uL, 1.37 mmol) was added to a mixture of 3-(benzyloxy)-2-bromo-5-(5-methyloxazol-2-yl)phenol (412 mg, 1.14 mmol) and potassium carbonate (632 mg, 4.58 mmol) in DMF (2.8 mL). After stirring for two hours, the solution was diluted with 1:1 ethyl acetate/diethyl ether, washed with water (5×), brine, dried over magnesium sulfate and concentrated to provide 2-(3-(benzyloxy)-4-bromo-5-ethoxyphenyl)-5-methyloxazole as a white crystalline solid (421 mg). MS (M+1)=388.2. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.52 (d, J=7.07 Hz, 2H), 7.36-7.43 (m, 2H), 7.28-7.35 (m, 2H), 7.23 (d, J=1.52 Hz, 1H), 6.86 (d, J=1.52 Hz, 1H), 5.24 (s, 2H), 4.21 (q, J=6.74 Hz, 2H), 2.41 (d, J=1.01 Hz, 3H), 1.50 (t, J=6.82 Hz, 3H).

reactant | Iodoethane | 1.37 mmol, 111 uL | ICC | C2H5I
reactant | 3-(benzyloxy)-2-bromo-5-(5-methyloxazol-2-yl)phenol | 1.14 mmol, 412 mg | C(C1=CC=CC=C1)OC=1C(=C(C=C(C1)C=1OC(=CN1)C)O)Br | C17H14BrNO3
reactant | potassium carbonate | 4.58 mmol, 632 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2.8 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate diethyl ether | C(C)(=O)OCC.C(C)OCC
product | 2-(3-(benzyloxy)-4-bromo-5-ethoxyphenyl)-5-methyloxazole | 421 mg | C(C1=CC=CC=C1)OC=1C=C(C=C(C1Br)OCC)C=1OC(=CN1)C | C19H18BrNO3
